** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment4/assign2b.sch
**.subckt assign2b
x1 VDD net1 inp GND out1 inv_tb
vin inp GND PULSE 0 1.8 10ps 5ps 5ps 100ps 250ps
V2 VDD GND 1.8
**** begin user architecture code


.control
tran 0.1p 250p
plot v(out1) v(inp)
meas tran tlh trig v(inp) val=0.9 rise=1 targ v(out1) val=0.9 rise=1
meas tran thl trig v(inp) val=0.9 fall=1 targ v(out1) val=0.9 fall=1
let delay= ($&thl + $&tlh) /2
echo delay: $&delay
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  inv_tb.sym # of pins=5
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv_tb.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv_tb.sch
.subckt inv_tb DVDD out in DGND vout1
*.iopin DGND
*.ipin in
*.opin out
*.iopin DVDD
*.opin vout1
x1 DVDD in vout1 DGND inv
x2 DVDD vout1 out DGND inv
.ends


* expanding   symbol:  inv.sym # of pins=8
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment4/inv.sch
.subckt inv DVDD in out DGND
*.ipin in
*.opin out
*.iopin DVDD
*.iopin DGND
XM3 out in DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 out in DGND DGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
