** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment4/assign2b.sch
**.subckt assign2b
vin inp GND PULSE 0 1.8 10ps 5ps 5ps 100ps 250ps
V2 VDD GND 1.8
x1 VDD net1 inp GND out1 inv_tb
**** begin user architecture code


.include inv_tb_extracted.spice
.control
tran 0.1p 250p
plot v(out1) v(inp)
meas tran tlh trig v(inp) val=0.9 rise=1 targ v(out1) val=0.9 rise=1
meas tran thl trig v(inp) val=0.9 fall=1 targ v(out1) val=0.9 fall=1
let delay= ($&thl + $&tlh) /2
echo delay: $&delay
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
